US05565479
2-[[1-(2-Propyl)-4-imidazolyl]methyl]-8H-indeno[1,2-d]thiazole
Starting compounds: 2-bromo-1-indanone, [1-(2-propyl)-4-imidazolyl]thioacetamide hydrochloride

reactant | 2-bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | [1-(2-propyl)-4-imidazolyl]thioacetamide hydrochloride | Cl.CC(C)N1C=NC(=C1)CC(=S)N
product | 2-[[1-(2-Propyl)-4-imidazolyl]methyl]-8H-indeno[1,2-d]thiazole | CC(C)N1C=NC(=C1)CC=1SC2=C(N1)C=1C=CC=CC1C2 | C17H17N3S
